US05053408
With stirring at room temperature, 15.4 g (99.9 mmols) of thiosalicylic acid was added by small portions to 50 ml of a solution of 2.44 g (101.7 mmols) of sodium hydride in dimethylformamide. The solution was dropwise added to 100 ml of a solution of 15.7 g (99.7 mmols) of 1-bromo-3-chloropropane in dimethylformamide with stirring under ice cooling. The mixture was stirred under ice cooling for further an hour and a half. After the reaction, an aqueous saturated sodium bicarbonate solution was added to the mixture followed by extraction of the solution with ethyl acetate 10 times. The ethyl acetate layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform/methanol =50/1) to afford 9.0 g (yield: 39%) of 1-chloro-3-(2-hydroxycarbonylphenylthio)propane.

reactant | thiosalicylic acid | 99.9 mmols, 15.4 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | sodium hydride | 101.7 mmols, 2.44 g | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 99.7 mmols, 15.7 g | BrCCCCl | C3H6BrCl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-chloro-3-(2-hydroxycarbonylphenylthio)propane | 9.0 g, yield: 39% | ClCCCSC1=C(C=CC=C1)C(=O)O | C10H11ClO2S
